US07259266B2
Step 1. Preparation of ethyl 8-methoxy-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 8-hydroxy-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 621w, Step 2 (165 mg, 0.442 mmole), iodomethane (82.8 uL, 1.33 mmole), KI (7.34 mg, 0.0442 mmole), K2CO3 (184 mg, 1.33 mmole) in anhydrous DMF (5.0 mL) was stirred at room temperature for 17 hrs. The mixture was then poured into brine (100 mL) and extracted with EtOAc (2×100 mL). The combined extracts were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give a tan solid. The crude product was purified by silica chromatography (0%-25% EtOAc in hexanes) to give an assumed quantitative yield of the product as an off-white crystalline solid: EIHRMS m/z 386.0593 (M+, C15H12F6O5, Calc'd 386.0589).

reactant | ethyl 8-hydroxy-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | OC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C14H10F6O5
reactant | iodomethane | 1.33 mmole, 82.8 uL | IC | CH3I
reactant | K2CO3 | 1.33 mmole, 184 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | ethyl 8-methoxy-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | quantitative yield | COC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C15H12F6O5
